US05532326
A terpolymer ethylene/propylene/1,4-hexadiene was prepared by polymerization in liquid monomer using the catalyst described in Example 1. The process was carried out as described in Example 4, but using a 4 l autoclave and introducing 1000 g of propylene; the pressure was kept constant at 26.2 bars by feeding a C3/C2 mixture with a molar ratio of 7. Using Al(nC6H13)3 as the cocatalyst, the polymerization was carried out at 40° C. for 4 hours. At the end a terpolymer containing 1.5% of diene by weight was obtained with yields of 1520 g/g catalyst.

reactant | propylene | 1000 g | C=CC | C3H6
reactant | Al(nC6H13)3 | [Al](CCCCCC)(CCCCCC)CCCCCC
product | ethylene/propylene 1,4-hexadiene | C=C.C=CC.C=CCC=CC | InChI=1S/C6H10.C3H6.C2H4/c1-3-5-6-4-2;1-3-2;1-2/h3-4,6H,1,5H2,2H3;3H,1H2,2H3;1-2H2
